US05037830
Preparation of 2-(2-dimethylaminobenzyl)thio-6-methyl-4(3H)-pyrimidinone
A mixture containing 0.71 g (5 mmol) of 6-methyl-2-thiouracil, 0.76 g (5 mmol) of 2-dimethylaminobenzyl alcohol (J. Chem. Soc. 1954, 4127) and 5 ml of concentrated hydrochloric acid is stirred at 60° C. for 3 hours, then cooled and made alkaline by adding 5N sodium hydroxide solution under cooling by ice. The mixture is extracted 3 times with 20 ml of chloroform each. After combining the organic phase is washed with sodium carbonate solution and then with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated. The residue is twice recrystallized from ethyl acetate to yield 0.59 g (43%) of the title compound, m.p.: 151°-153° C.

reactant | 6-methyl-2-thiouracil | 5 mmol, 0.71 g | CC1=CC(NC(N1)=S)=O | C5H6N2OS
reactant | 2-dimethylaminobenzyl alcohol | 5 mmol, 0.76 g | CN(C1=C(CO)C=CC=C1)C | C9H13NO
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
product | 2-(2-dimethylaminobenzyl)thio-6-methyl-4(3H)-pyrimidinone | 0.59 g, 43% | CN(C1=C(CSC2=NC(=CC(N2)=O)C)C=CC=C1)C | C14H17N3OS
